US04584300
[2-(4-Acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetamide (compound No. 37)
To a stirred solution of [2-(4-acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid (compound No. 26, 4.6 g) and triethylamine (1.8 ml) in CH2Cl2 (45 ml), isobutylchloroformate (1.7 ml) is added dropwise at -12° C. After the addition, the reaction mixture is stirred for 10 minutes at the same temperature. Conc. ammonia water (7.2 ml) is added to the mixture. The mixture is stirred for 30 minutes at room temperature, and washed with saturated sodium hydrogen carbonate solution and N HCl. The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo to give 3.5 g (76%) of the titled compound.

reactant | [2-(4-acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetic acid | 4.6 g | C(C)(=O)OC1=CC=C(C=C1)C1SC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C18H15NO5S
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia water | 7.2 ml | O.N
solvent | CH2Cl2 | 45 ml | C(Cl)Cl | CH2Cl2
solvent | isobutylchloroformate | 1.7 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
product | [2-(4-Acetoxyphenyl)-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-4-yl]acetamide | 3.5 g, 76% | C(C)(=O)OC1=CC=C(C=C1)C1SC2=C(N(C1=O)CC(=O)N)C=CC=C2 | C18H16N2O4S
